US07160875B2
b) (2S)-2-Fluoro-2-methyl-N-((S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid
A solution of 75 mg (0.2 mmol) of (2S)-2-fluoro-2-methyl-N-((S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid ethyl ester in 1 ml of tetrahydrofurane was treated for 2 h at room temperature with a solution of 8 mg (0.2 mmol) of lithium hydroxide monohydrate in 0.5 ml of water. For the working-up, the tetrahydrofurane was evaporated under reduced pressure and the remaining aqueous layer was extracted twice with 10 ml of diethylether. The combined organic layers were washed with 5 ml of water and, thereafter, the combined aqueous layers were acidified with 0.025 ml of hydrochloric acid (25%). Thereupon, the aqueous layer was extracted three times with 15 ml of ethyl acetate. The organic layers were washed with 15 ml of a saturated solution of sodium chloride, then combined, dried over sodium sulphate, and evaporated under reduced pressure. There were obtained 69 mg (99% of theory) of the title compound as a white foam;

reactant | (2S)-2-fluoro-2-methyl-N-((S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid ethyl ester | 0.2 mmol, 75 mg | C(C)OC([C@@](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)(C)F)=O | C21H21FN2O4
reactant | lithium hydroxide monohydrate | 0.2 mmol, 8 mg | O.[OH-].[Li+]
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | (2S)-2-Fluoro-2-methyl-N-((S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid | F[C@](C(=O)O)(C(=O)N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C | C19H17FN2O4
